Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.95731721648
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12]/[C:13]([H:14])([H:15])[H:16],1.78390053097
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],3.85964708314
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8],3.98691252927
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.77719577537
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1][C:2]#[C:3][C:5]([H:6])([O:7][H:8])[O:9][H:10].[H:4],4.23096286515
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.167287001209999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])[C:11][H:12]>>[C:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.8036585529400004
[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.62069008956
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],4.690565090530001
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-2.46193585408
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[O:1],7.75943330525
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],2.75960597247
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],4.49017667154
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.1569767890900025
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.74614039595
[C:1]=[C:2]([H:3])[H:4].[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.91267776256
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][C:2]=[O:3],0.83139408904
[O:1]=[C:2]=[C:3][C:4]1[O:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8],2.21614847775
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4],1.46086097593
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8],-2.04378924
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9],1.93673552072
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.55495907765
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-1.5314886252000002
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.90761272405
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.64089210801
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.95413101281
